US05728835
4-Nitro-N-(3,5-dimethylphenyl)benzamide
Using 3,5-xylidine (1.42 ml, 11.0 mmol) and 4-nitrobenzoic acid (1.76 g, 10.4 mmol), the procedure of Reference Example 16 was repeated to obtain 2.72 g (quantitative) of the title compound in the form of light yellow crystals.

reactant | 3,5-xylidine | 11.0 mmol, 1.42 ml | NC1=CC(=CC(=C1)C)C | C8H11N
reactant | 4-nitrobenzoic acid | 10.4 mmol, 1.76 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | 4-Nitro-N-(3,5-dimethylphenyl)benzamide | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC(=CC(=C2)C)C)C=C1 | C15H14N2O3
